US04886821
Lawesson's reagent (3.20 g, 7.9 mmol) and N-(3-fluorophenyl)-N-methyl-2-pyridinecarboxamide (3.51 g, 15.2 mmol) were heated to reflux in toluene (45 mL) under nitrogen for 2 hours. The residue, after evaporation of the solvent, was dissolved in dichloromethane, preadsorbed onto silica gel, and flash chromatographed (250 g of silica gel eluted with 10% ethyl acetate in petroleum ether) to yield N-(3-fluorophenyl)-N-methyl-2-pyridinecarbothioamide as a yellow solid (1.70 g, 45%), m.p. 100°-103° C.

reactant | Lawesson's reagent | 7.9 mmol, 3.20 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | N-(3-fluorophenyl)-N-methyl-2-pyridinecarboxamide | 15.2 mmol, 3.51 g | FC=1C=C(C=CC1)N(C(=O)C1=NC=CC=C1)C | C13H11FN2O
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-fluorophenyl)-N-methyl-2-pyridinecarbothioamide | 1.70 g, 45% | FC=1C=C(C=CC1)N(C(=S)C1=NC=CC=C1)C | C13H11FN2S
